US03992440
The mixture of 1.5 g of 4-(3-acetamidophenoxy)-3-n-butylamino-5-sulfamoylbenzoic acid and 15 ml of2 N aqueous sodium hydroxide is refluxed for 5 hours under nitrogen. After cooling it is filtered, the filtrate acidified with glacial acetic acid and hydrochloric acid to a pH of 2-3, the precipitate collected and recrystallized from ethanol, to yield the 4-(3-aminophenoxy)-3-n-butylamino-5-sulfamoylbenzoic acid of the formula ##SPC16##

reactant | 4-(3-acetamidophenoxy)-3-n-butylamino-5-sulfamoylbenzoic acid | 1.5 g | C(C)(=O)NC=1C=C(OC2=C(C=C(C(=O)O)C=C2S(N)(=O)=O)NCCCC)C=CC1 | C19H23N3O6S
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-(3-aminophenoxy)-3-n-butylamino-5-sulfamoylbenzoic acid | NC=1C=C(OC2=C(C=C(C(=O)O)C=C2S(N)(=O)=O)NCCCC)C=CC1 | C17H21N3O5S
